US04640703
10.4 g (0.1575 mole) of 85% potassium hydroxide are dissolved in 75 ml of water. 3.5 g (0.0825 mole) of cyanamide are added at 20° C. and the clear, colourless solution is cooled to 10° C. Then a solution of 25.8 g (0.075 mole) of 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionyl chloride in 15 ml of acetone is added dropwise such that the temperature does not exceed 15° C. After the reaction mixture has been stirred for 45 minutes at this temperature, 9 g (0.09 mole) of 37% aqueous hydrochloric acid are added dropwise at 5° C. The product precipitates as an oil which crystallises on standing over 30 minutes. The colourless crystals are isolated by filtration, washed with water, dried over phosphorous pentoxide, affording 24.9 g (95.0% of theory) of 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid N-cyanamide with a melting point of 125°-127° C.

reactant | potassium hydroxide | 0.1575 mole, 10.4 g | [OH-].[K+]
reactant | cyanamide | 0.0825 mole, 3.5 g | N#CN | CH2N2
reactant | 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionyl chloride | 0.075 mole, 25.8 g | FC(C1=CC=C(OC2=CC=C(OC(C(=O)Cl)C)C=C2)C=C1)(F)F | C16H12ClF3O3
reactant | hydrochloric acid | 0.09 mole, 9 g | Cl | ClH
solvent | water | 75 ml | O | H2O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid N-cyanamide | 24.9 g, 95.0% | C(#N)NC(C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)=O | C17H13F3N2O3
